US04476308
Preparation of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)propionamide
1.5 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)propionate are left to stand at room temperature for 24 hours with 2.45 g of cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine. Thereafter, the excess cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine is distilled off in a high vacuum and the residue (3.5 g) is chromatographed on 30 g of silica gel (granular size 0.2-0.5 mm). The (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)propionamide which is eluted with methanol has a melting point of 129°-130° after recrystallization from ethyl acetate.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)propionate | 1.5 g | OC1C(N(CC1)C(C(=O)OCC)C)=O | C9H15NO4
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine | 2.45 g | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)propionamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(C(C)N1C(C(CC1)O)=O)=O | C16H29N3O3
